Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
sulfur dioxide / Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy and stone removal ___
 
History of Present Illness:
___ year old female with history of thyroid cancer and arthritis 
with right upper quadrant pain that started on ___ 
after eating. There is no radiation of pain. She also noted dark 
brown urine. On ___, the patient went to PCP and found to have 
elevated LFTs. She was sent for RUQ ultrasound today at 10 am at 
OSH. Ultrasound revealed sludge, echogenic material and many 
stones throughout the gallbladder. She was also noted to have 
air within the gallbladder wall with ? necrotizing gallbladder. 
CBD was dilated at 1.3 cm with stones at the distal end of the 
CBD. CT scan found gallstones in the gall bladder (2 mm - 7 mm) 
and small round calcifications of the wall  with a small amount 
of air in the superior aspect of the GB. She was also found to 
have 3 cm cystic structure at portohepatis. Pt reports nausea 
and vomiting this morning, chills, headache, and what she thinks 
to be more yellow skin. She denies fever, constipation, 
diarrhea, bloody stools, black stools, change in stool color, 
urinary sx, CP, SOB.  She received levofloxacin and 
metronidazole at the OSH.

In the ED, initial vitals were 98.4 88 130/64 20 97% on RA.  She 
was well-appearing, with no jaundice, anicteric sclera, mild TTP 
in RUQ, no ascites.  Labs showed ALT: 156 AP: 402 Tbili: 5.9 
Alb: 3.9 AST: 93.  ERCP was consulted and recommended IVF, NPO, 
ABX, consult surgery, will likely do ERCP tomorrow.  Surgery was 
consulted and recommended cipro, flagyl, ERCP, perc chole if she 
gets sick.  Vitals on transfer were 98.4 78 117/60 18 98% RA.

Currently, the patient notes no abdominal pain or nausea.  There 
are no fevers or chills.
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, night sweats, recent weight loss or gain. 
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea. No 
recent change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias. Ten point review of systems is 
otherwise negative. 
 
Past Medical History:
Thyroid cancer s/p thyroidectomy
Arthritis
GERD
s/p Total hip replacement, right
s/p C-section x 2
 
Social History:
___
Family History:
Father with lung cancer
 
Physical Exam:
Admission PE:
Vitals: T: 98.2 BP: 123/60 P: 67 R: 20 O2: 97% on RA  
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  Jaundice 
noted 
HEENT: NCAT, Pupils equal and reactive, sclerae icteric, OP 
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, mildly tender in RUQ, non-distended, + bowel sounds.  

EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro:  non-focal.  
PSYCH: Appropriate and calm.

Discharge PE:
 
Pertinent Results:
___ 06:20PM BLOOD WBC-9.9 RBC-4.91 Hgb-14.2 Hct-41.9 MCV-85 
MCH-28.9 MCHC-33.9 RDW-13.5 RDWSD-42.1 Plt ___
___ 06:20PM BLOOD Neuts-88.1* Lymphs-2.3* Monos-8.9 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-8.69* AbsLymp-0.23* 
AbsMono-0.88* AbsEos-0.00* AbsBaso-0.02
___ 06:20PM BLOOD ___ PTT-29.4 ___
___ 06:20PM BLOOD Glucose-108* UreaN-11 Creat-0.6 Na-141 
K-3.2* Cl-103 HCO3-20* AnGap-21*
___ 06:20PM BLOOD ALT-156* AST-93* AlkPhos-402* 
TotBili-5.9*
___ 06:20PM BLOOD Albumin-3.9
___ 06:29PM BLOOD Lactate-1.___ year old female with history of thyroid cancer and arthritis 
who presents with bile duct obstruction and likely 
cholecystitis, possibly necrotizing. 
 
# Bile duct obstruction
# Cholecystitis: noted on OSH imaging.  LFTs with obstructive 
pattern. ERCP and Surgery consulted. Concern for air in 
gallbladder but clinically doing well with minimal pain, no 
signs of sepsis.  She was placed on Cipro and Flagyl.  She 
underwent ERCP with sphincterotomy and stone removal on ___.  
She tolerated this well with improving LFTs.  Thereafter she had 
a negative HIDA scan thus did not require percutaneous 
cholecystostomy tube nor did she actively require gallbladder 
surgery.   After discussing with surgery, they plan to see her 
in outpatient followup for consideration of surgery.   A number 
to their clinic was provided.  She was prescribed ciprofloxacin 
and flagyl to complete a 10 day course.   
 
# Thyroid cancer s/p thyroidectomy
# Hypothyroidism: continued home levothyroxine
 
# GERD: continued home pantoprazole
.
___ ___ 
 
Discharge Medications:
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Pantoprazole 40 mg PO Q24H 
3. meloxicam 7.5 mg oral unknown 
4. Ciprofloxacin HCl 500 mg PO Q12H 
Start date ___, end date ___ 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*16 Tablet Refills:*0
5. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
Start ___ end ___ 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth three 
times a day Disp #*24 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholecystitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,

You were admitted for abdominal pain that we felt was from 
cholecystitis (inflammation of the gallbladder).   However, your 
inflammation had considerably decreased on antibiotics while you 
were in the hospital and you did not need any immediate 
procedures.   Please call ___ to schedule a follow up 
appointment with surgery within the next week to be evaluated 
for outpatient gallbladder surgery.   Please continue 
antibiotics as indicated in attached prescriptions.   
 
Followup Instructions:
___